US06137003
Methyl 4-amino-3-(2'-(2"-methoxyethoxy)ethoxy)benzoate (5.0 g, 18.6 mmol) and ethylene oxide (8.8 g, 200 mol) were dissolved in 150 mL acetic acid to form a reaction mixture. The mixture was stirred at room temperature for 12 hours. It was diluted with 300 mL H2O, extracted with chloroform/methanol (95/5, 4×200 mL). The organic solution was concentrated to form methyl 4-bis(2'-hydroxyethyl)amino-3-(2'-(2"-methoxyethoxy)ethoxy)benzoate as an off-white oil (6.1 g, 92%). 1H NMR (300 MHz, CDCl3): 7.62 (dd, J=8.1, 2.1 Hz, 1H), 7.52 (d, J=2.1 Hz, 1H), 7.05 (d, J=7.2 Hz, 1H), 4.22 (m, 4H), 3.89 (s, 3H, 3.9-3.8 (m, 4H), 3.68 (m, 6H), 3.58 (m, 2H), 3.38 (m, 2H), 3.37 (s, 1H). ESMS calcd (C17H27NO7): 357.2; found: 358.3 (M+H)+.

reactant | Methyl 4-amino-3-(2'-(2"-methoxyethoxy)ethoxy)benzoate | 18.6 mmol, 5.0 g | NC1=C(C=C(C(=O)OC)C=C1)OCCOCCOC | C13H19NO5
reactant | ethylene oxide | 200 mol, 8.8 g | C1CO1 | C2H4O
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 300 mL | O | H2O
product | methyl 4-bis(2'-hydroxyethyl)amino-3-(2'-(2"-methoxyethoxy)ethoxy)benzoate | 6.1 g, 92% | OCCN(C1=C(C=C(C(=O)OC)C=C1)OCCOCCOC)CCO | C17H27NO7
